US04220776
15 Grams (0.066 mole) of 2-cyano-3-chlorothieno (2,3-b)pyridine and 17.5 ml (0.33 mole) of methylhydrazine were dissolved in 110 ml of dimethylsulfoxide and heated to 75° for 15 hr under nitrogen. The reaction was cooled and poured into water. The solid was filtered and dried to give 11 g of 1-methyl-1H-pyrazolo(3',4':4,5)thieno(2,3-b)pyridine-3-amine. m.p. 194°-196° C. NMR(CDCl3) δ4.0(s,3); 5.2(s,2); 7.4(dd,1); 8.4(m,2).

reactant | 2-cyano-3-chlorothieno (2,3-b)pyridine | 0.066 mole | C(#N)C1=C(C=2C(=NC=CC2)S1)Cl | C8H3ClN2S
reactant | methylhydrazine | 0.33 mole, 17.5 ml | CNN | CH6N2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 110 ml | CS(=O)C | C2H6OS
product | 1-methyl-1H-pyrazolo(3',4':4,5)thieno(2,3-b)pyridine-3-amine | 11 g | CN1N=C(C2=C1C=1C(=NC=CC1)S2)N | C9H8N4S
